US05371101
In the same manner as in Reference Example 5, starting from 1.54 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.52 g of 1-(4-trifluoromethoxyphenyl)-5(1H,4H)-tetrazolone, 1.76 g of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(4-trifluoromethoxyphenyl)-5(1H,4H)-tetrazolone was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.54 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-(4-trifluoromethoxyphenyl)-5(1H,4H)-tetrazolone | 1.52 g | FC(OC1=CC=C(C=C1)N1N=NNC1=O)(F)F | C8H5F3N4O2
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(4-trifluoromethoxyphenyl)-5(1H,4H)-tetrazolone | 1.76 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=NN(C2=O)C2=CC=C(C=C2)OC(F)(F)F)CO1 | C18H13F5N4O3
